*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM12V-701-2PL (Common Mode Filter)
* Property: |Zc|=700ohm Typ. at 100MHz
* Size(LxWxT): 12x11x6mm, 0.472x0.433x0.236inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM12V_701_2PL_s n1 n2 n3 n4
C11 n1 n4 6.00000000E-13
C12 n2 n3 6.00000000E-13
C21 n4 41 8.00000000E-10
C22 n3 31 8.00000000E-10
C31 n1 n2 6.50000000E-13
C32 n3 n4 6.50000000E-13
K11 L11 L12 9.40000000E-01
K21 L21 L22 9.60000000E-01
L11 11 12 4.00000000E-06
L12 21 22 4.00000000E-06
L21 n4 12 4.00000000E-06
L22 n3 22 4.00000000E-06
R11 n1 n4 1.80000000E+03
R12 n2 n3 1.80000000E+03
R21 12 41 4.00000000E+02
R22 22 31 4.00000000E+02
R31 n1 11 4.00000000E-03
R32 n2 21 4.00000000E-03
R41 n1 n2 1.00000000E+10
R42 n3 n4 1.00000000E+10
.ENDS ACM12V_701_2PL_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM70V-701-2PL (Common Mode Filter)
* Property: |Zc|=700ohm Typ. at 100MHz
* Size(LxWxT): 7x6x3.5mm, 0.276x0.236x0.138inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM70V_701_2PL_s n1 n2 n3 n4
C11 n1 n4 1.70000000E-13
C12 n2 n3 1.70000000E-13
C21 n4 41 8.00000000E-10
C22 n3 31 8.00000000E-10
C31 n1 n2 2.50000000E-13
C32 n3 n4 2.50000000E-13
K11 L11 L12 9.40000000E-01
K21 L21 L22 9.60000000E-01
L11 11 12 4.00000000E-06
L12 21 22 4.00000000E-06
L21 n4 12 4.00000000E-06
L22 n3 22 4.00000000E-06
R11 n1 n4 1.80000000E+03
R12 n2 n3 1.80000000E+03
R21 12 41 4.00000000E+02
R22 22 31 4.00000000E+02
R31 n1 11 1.00000000E-02
R32 n2 21 1.00000000E-02
R41 n1 n2 1.00000000E+10
R42 n3 n4 1.00000000E+10
.ENDS ACM70V_701_2PL_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACM90V-701-2PL (Common Mode Filter)
* Property: |Zc|=700ohm Typ. at 100MHz
* Size(LxWxT): 9x7x4.5mm, 0.354x0.276x0.177inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACM90V_701_2PL_s n1 n2 n3 n4
C11 n1 n4 3.00000000E-13
C12 n2 n3 3.00000000E-13
C21 n4 41 8.00000000E-10
C22 n3 31 8.00000000E-10
C31 n1 n2 3.00000000E-13
C32 n3 n4 3.00000000E-13
K11 L11 L12 9.40000000E-01
K21 L21 L22 9.60000000E-01
L11 11 12 4.00000000E-06
L12 21 22 4.00000000E-06
L21 n4 12 4.00000000E-06
L22 n3 22 4.00000000E-06
R11 n1 n4 1.80000000E+03
R12 n2 n3 1.80000000E+03
R21 12 41 4.00000000E+02
R22 22 31 4.00000000E+02
R31 n1 11 6.00000000E-03
R32 n2 21 6.00000000E-03
R41 n1 n2 1.00000000E+10
R42 n3 n4 1.00000000E+10
.ENDS ACM90V_701_2PL_s
*----------------------------------------------------------------------
