* OrCAD Model Editor - Version 9.0

*$
* ADA4817 Spice Model  Rev. B, 7/2008 CK
*
* Refer to "README.DOC" file for License Statement.
* Use of this model indicates your acceptance with
* the terms and provisions in the License Statement.
*
* The following parameters are accurately modeled;
*
*    
*       FET Input common mode range
*       Bandwidth 960 MHz 
*       Voltage noise ~ 4nV/rtHz
*       Slew Rate ~ 840V/us
*       Input Capacitance Cm ~1.3pF and Dm ~0.1pF
*       Vos is static and will not vary ~ 1.5 mV
*       Distortion is not characterized       
*       Output Swing is not characterized. (it's currently Rail to Rail)
*
*    Node assignments
*                  non-inverting input
*                  | inverting input
*                  | | positive supply
*                  | | |  negative supply
*                  | | |  |  output
*                  | | |  |  |
.SUBCKT ADA4817  1 2 99 50 45

* FET INPUT STAGE

Eos 9 2 poly(1) 100 98 4.2m 1
Cd 1 2 0.1p
Ccm1 1 0 1.5p
Ccm2 2 0 1.5p
J1 5 1 4 pmod 
J2 6 9 4 pmod
Ib1 1 0 2p
Ib2 9 0 2p
R3 50 5 rnoise 1
R4 50 6 rnoise 1
I11 99 4 1m

Ccap 45 2 0.8p

* COMMON-MODE GAIN NETW0RK

*Ecm 80 98 POLY(2) 2 98 1 98 0 .5 .5 

* GAIN STAGE & POLE AT 130 kHz

Ecc 97 0 99 0 1
Ess 52 0 50 0 1
Eref 98 0 POLY(2) 99 0 50 0 0 .5 .5 

G1 13 98 5 6 0.045e3
R7 13 98 Rnoise 255e3
C3 13 98 30p
V1 97 14 2.25
V2 16 52 2.25
D1 13 14 DX
D2 16 13 DX

* POLE AT 1 GHz
G2 98 43 13 98 1
R10 98 43 rnoise 1
C5 98 43 112p

* POLE AT 1.3 GHz
G3 98 53 43 98 1
R11 98 53 rnoise 1
C6 98 53 112p

*POLE AT 130 GHz
*G4 98 63 53 98 1
*R12 98 63 rnoise 1
*C7 98 63 0.122p

* BUFFER STAGE
Gbuf 98 81 53 98 1e-2
Rbuf 81 98 Rnoise 100
* OUTPUT STAGE

Vo1 99 90 0
Vo2 51 50 0
R18 25 90 rnoise .02
R19 25 51 rnoise .02
*D100 45 250 Dx
*D101 250 45 Dx
Vcd 25 45 0
G6 25 90 99 81 50
G7 51 25 81 50 50
V4 26 25 -0.8355
V5 25 27 -0.8355
D5 81 26 Dx
D6 27 81 DX

Fo1 98 70 vcd 1
D7 70 71 DX
D8 72 70 DX
vi1 71 98 0
Vi2 98 72 0

Erefq 96 0 45 0 1 
Iq 99 50 -0.1017
Fq1 96 99 POLY(2) Vo1 Vi1 0 1 -1
Fq2 50 96 POLY(2) Vo2 Vi2 0 1 -1

****** Voltage noise stage

rnoise1 39 98 5.5e-4
vnoise1 39 98 0
vnoise2 101 98 0.75
dnoise1 101 39 dn
fnoise1 100 98 vnoise1 1
rnoise2 100 98 1

.model Rnoise RES(T_abs=-275)
.model pmod pjf (beta=0.5e-2, T_abs=-10)
.MODEL DX D (T_abs=-10)
.model dn d(kf=2e-12,af=1, T_abs=-4)

.ENDS
*$
* ADA4817 Spice Macro-model
* Description: Amplifier
* Generic Desc:
* Developed by: CK/ADI
* Revision History:
*   1.4 (1/2013) Updated to new header style
*   1.3 (4/2012)
* Copyright 2012 by Analog Devices Inc.
*
*
* BEGIN Notes:
*
* Not Modeled:
*    Distortion
*
* Parameters modeled include:
*    FET Input common mode range
*    Bandwidth 1050 MHz 
*    Voltage noise ~ 4nV/rtHz
*    Slew Rate ~ 840V/us
*    Input Capacitance Cm ~1.3pF and Dm ~0.1pF
*    Vos is static and will not vary ~ 1.5 mV
*    Output Swing swing
*
* END Notes
*
*
*
* Node assignments
*                  non-inverting input
*                  | inverting input
*                  | | positive supply
*                  | | |  negative supply
*                  | | |  |  output
*                  | | |  |  |  FB output 
*                  | | |  |  |  |
.SUBCKT ADA4817-1    1 2 99 50 45 46

* FET INPUT STAGE
*Eos 9 2 poly(1) 100 98 4.2m 1
Vos 9 2 1.5m
Cd 1 2 0.1p
Ccm1 1 0 1.3p
Ccm2 2 0 1.3p
J1 5 1 4 pmod 
J2 6 9 4 pmod
Ib1 1 0 2p
Ib2 9 0 2p
Dnil 9 42 DX
Vnil 99 42 3.4
Dpil 1 44 DX
Vpil 99 44 3.4
*R3 50 5 1
*R4 50 6 1
HR3 50 55 VR3 1
VR3 55 5 DC 0
HR4 50 66 VR4 1
VR4 66 6 DC 0
I11 99 4 1m
Ccap 46 2 0.1p

* COMMON-MODE GAIN NETW0RK
Ecm 80 98 POLY(2) 2 98 1 98 0 .5 .5 

Ecc 97 0 99 0 1
Ess 52 0 50 0 1
Eref 98 0 POLY(2) 99 0 50 0 0 .5 .5 

* GAIN STAGE & POLE AT 130 kHz
G1 13 98 5 6 0.045e3
R7 13 98 rnoise 255e3
*HR7 13 198 VR7 255E3
*VR7 198 98 DC 0
C3 13 98 40p
V1 97 14 1.65
V2 16 52 1.55
D1 13 14 DX
D2 16 13 DX

* POLE AT 1 GHz
G2 98 43 13 98 1
R10 98 43 1
C5 98 43 100p

* POLE AT 1.3 GHz
G3 98 53 43 98 1
R11 98 53 1
C6 98 53 100p

*POLE AT 130 GHz
*G4 98 63 53 98 1
*R12 98 63 rnoise 1
*C7 98 63 0.122p

* BUFFER STAGE
Gbuf 98 81 53 98 1e-2
Rbuf 81 98 100

* OUTPUT STAGE
Vo1 99 90 0
Vo2 51 50 0
R18 25 90 .02
R19 25 51 .02
*D100 45 250 Dx
*D101 250 45 Dx
Vcd 255 45 0
Lout 255 25 0.1p
G6 25 90 99 81 50
G7 51 25 81 50 50
V4 26 25 -0.8355
V5 25 27 -0.8355
D5 81 26 Dx
D6 27 81 DX
R111 45 46 0.1

Fo1 98 70 vcd 1
D7 70 71 DX
D8 72 70 DX
vi1 71 98 0
Vi2 98 72 0

Erefq 96 0 45 0 1 
Iq 99 50 0.0185
Fq1 96 99 POLY(2) Vo1 Vi1 0 1 -1
Fq2 50 96 POLY(2) Vo2 Vi2 0 1 -1

****** Voltage noise stage
rnoise1 39 98 1.8e-3
vnoise1 39 98 0
vnoise2 101 98 0.75
dnoise1 101 39 dn
fnoise1 100 98 vnoise1 1
rnoise2 100 98 1

.model Rnoise RES(T_abs=0)
.model pmod pjf (beta=0.5e-2, T_abs=-10)
.MODEL DX D (T_abs=0)
.model dn d(kf=2e-12,af=1, T_abs=-4)

.ENDS
;$SpiceType=AMBIGUOUS
*$
