.subckt AVG0 in AVG  Params: tau=20m
B2 0 AVG I=V(xx) Rpar=1 Cpar=10n
G1 0 a in 0 1
R2 2 0 1
T1 a 0 2 0 Td={tau} Z0=1
G3 0 xx a 2 1
C1 xx 0 {tau} Rpar=1T 
.ends AVG0
